US06777418B2
To a solution of 27.0 g (0.66 mmol) of Methyl-4-{(E)-2-[3-(3-hydroxypropyl)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yl]vinyl}benzoate in 10 mL of methyl alcohol was added 5 mL of 1 N LiOH. The reaction mixture was heated to reflux. After 4 hours, the reaction mixture was cooled to room temperature, diluted with diethyl ether and acidified with concentrated HCl. The organic layer was separated, washed with brine, dried over sodium sulfate and concentrated under reduced pressure. The residue was purified by crystallization (hexane/ethyl acetate) to give 200 mg (76%) of 4-{(E)-2-[3-(3-hydroxypropyl)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yl]vinyl}benzoic acid (m.p.: 212.8-213.2° C.) 12.

reactant | Methyl-4-{(E)-2-[3-(3-hydroxypropyl)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yl]vinyl}benzoate | 0.66 mmol, 27.0 g | COC(C1=CC=C(C=C1)\C=C\C1=CC=2C(CCC(C2C=C1CCCO)(C)C)(C)C)=O | C27H34O3
reactant | LiOH | 1 N, 5 mL | [Li+].[OH-]
reactant | HCl | Cl | ClH
solvent | methyl alcohol | 10 mL | CO | CH4O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 4-{(E)-2-[3-(3-hydroxypropyl)-5,5,8,8-tetramethyl-5,6,7,8-tetrahydro-naphthalen-2-yl]vinyl}benzoic acid | 200 mg, 76% | OCCCC=1C(=CC=2C(CCC(C2C1)(C)C)(C)C)/C=C/C1=CC=C(C(=O)O)C=C1 | C26H32O3
